US06897231B2
B. 1H-indazole-5-carbonitrile
4-Fluoro-3-formylbenzenecarbonitrile (4.6 g, 30.85 mmol) was suspended in 20 mL of hydrazine mono-hydrate and the reaction mixture was stirred at room temperature for 48 hours. The title compound was isolated by filtration as a white solid, was washed with small portions of distilled water, and was dried in a vacuum (3.6 g, 81% yield).

reactant | 4-Fluoro-3-formylbenzenecarbonitrile | 30.85 mmol, 4.6 g | FC1=C(C=C(C=C1)C#N)C=O | C8H4FNO
reactant | hydrazine mono-hydrate | 20 mL | O.NN
product | 1H-indazole-5-carbonitrile | 81% yield | N1N=CC2=CC(=CC=C12)C#N | C8H5N3
